US06451821B1
The process is performed as in Example 2, starting with 2.31 g of N-(tert-butyl)-N′-[(1R)-2-hydroxy-1-(3-carboxybenzyl)ethyl]thiourea in 25 cm3 of 6N hydrochloric acid for 18 hours. After concentration of the reaction mixture under reduced pressure (5 kPa) at a temperature in the region of 55° C., the residue is taken up in 20 cm3 of acetone and is then concentrated again under the above conditions. The residue obtained is purified by chromatography under a pressure of 50 kPa of argon, on a column of silica gel (particle size 40-63μ; mass of silica: 100 g), eluting with a chloroform/methanol/20% aqueous ammonia mixture (12/6/1 by volume) and collecting 30 cm3 fractions. Fractions 16 to 38 are combined and then concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The solid obtained is dissolved in 10 cm3 of aqueous 6N hydrochloric acid and is then concentrated as previously. After taking up the residue obtained in 10 cm3 of acetone, the resulting insoluble material is filtered off; the filtrate is concentrated as above. A solid is obtained, which is dried for 5 hours in an oven at 40° C., under reduced pressure (8 Pa). 0.650 g of (+)-(4R)-4-(3-carboxybenzyl)-4,5-dihydro-1,3-thiazol-2-ylamine hydrochloride is obtained in the form of a beige-colored solid melting at 151° C. (αD20=+13.4±0.6 at a concentration of 0.5% in methanol).

reactant | N-(tert-butyl)-N′-[(1R)-2-hydroxy-1-(3-carboxybenzyl)ethyl]thiourea | 2.31 g | C(C)(C)(C)NC(=S)N[C@@H](CO)CC1=CC(=CC=C1)C(=O)O | C15H22N2O3S
reactant | hydrochloric acid | 6N, 25 cm3 | Cl | ClH
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | acetone | 20 cm3 | CC(=O)C | C3H6O
product | (+)-(4R)-4-(3-carboxybenzyl)-4,5-dihydro-1,3-thiazol-2-ylamine hydrochloride | 0.650 g | Cl.C(=O)(O)C=1C=C(C[C@H]2N=C(SC2)N)C=CC1 | InChI=1S/C11H12N2O2S.ClH/c12-11-13-9(6-16-11)5-7-2-1-3-8(4-7)10(14)15;/h1-4,9H,5-6H2,(H2,12,13)(H,14,15);1H/t9-;/m1./s1
